US07750156B2
1.97 g of dibenzylamine, 1.68 g of 1,4-cyclohexanedione and 40 mg of 10% palladium-carbon were heated with stirring in 40 ml of ethanol at 50° C. to 60° C. and reacted for 8 hours under air bubbling. During the reaction, ethanol was added as needed. After the completion of the reaction, the catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The resultant was purified by silica gel column chromatography (n-hexane:ethyl acetate=30:1) and further separated by silica gel column chromatography (n-hexane:ethyl acetate=10:1), and 1.67 g of N-(4-hydroxyphenyl)dibenzylamine was obtained (yield 57%).

reactant | dibenzylamine | 1.97 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 1,4-cyclohexanedione | 1.68 g | C1(CCC(CC1)=O)=O | C6H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | N-(4-hydroxyphenyl)dibenzylamine | 1.67 g, yield 57% | OC1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H19NO
